US09340471B2
Preparation of Bis(isopropyl-amino-)phenylphosphine (NPN)
To a stirred solution of isopropylamine (30 ml, 352 mmol) in diethylether (250 ml), dichlorophenylphosphine (9.63 ml, 71 mmol, dissolved in 50 ml diethylether) was added at 0° C. over a period of 30 min. After stirring for a total of 72 hrs the solution was filtrated. The residue was washed with diethylether and the solvent was removed in vacuum. The remaining oil was distilled at 0.2 Torr/76-78° C. to give a colorless liquid with 33% yield (5.3 g). 31P{H} NMR: 49.0 ppm.

reactant | isopropylamine | 352 mmol, 30 ml | C(C)(C)N | C3H9N
reactant | dichlorophenylphosphine | 71 mmol, 9.63 ml | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
solvent | diethylether | 250 ml | C(C)OCC | C4H10O
product | Bis(isopropyl-amino-)phenylphosphine | 33% yield | C(C)(C)NP(C1=CC=CC=C1)NC(C)C | C12H21N2P
